US05780483
Synthesis of N-(2-hydroxy-4-nitrophenyl) N'-(2,4-dibromo phenyl) urea
The urea was prepared from 4-nitro 2-hydroxy aniline(308 mg, 2 mmol) and 2,4-dibromo phenyl isocyanate(2 mmol) by general Method B. It was purified by dilution with methylene chloride and precipitation with hexane. Filtering afforded the title compound(0.34 g, 39%). EI-MS m/z 430(M+H)+

reactant | 4-nitro 2-hydroxy aniline | 2 mmol, 308 mg | [N+](=O)([O-])C1=CC(=C(N)C=C1)O | C6H6N2O3
reactant | 2,4-dibromo phenyl isocyanate | 2 mmol | BrC1=C(C=CC(=C1)Br)N=C=O | C7H3Br2NO
product | N-(2-hydroxy-4-nitrophenyl) N'-(2,4-dibromo phenyl) urea | 0.34 g, 39% | OC1=C(C=CC(=C1)[N+](=O)[O-])NC(=O)NC1=C(C=C(C=C1)Br)Br | C13H9Br2N3O4
